US07368578B2
A mixture of 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile (0.40 g), triisopropylsilyl chloride (0.75 g), imidazole (0.27 g) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 3 days. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give 3-{4-[(2-methoxy-4-{[(triisopropylsilyl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile as a colorless oil (0.53 g, yield 95%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 0.40 g | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H18N2O4
reactant | triisopropylsilyl chloride | 0.75 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 0.27 g | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-{4-[(2-methoxy-4-{[(triisopropylsilyl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 0.53 g, yield 95% | COC1=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=CC(=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C29H38N2O4Si
